US07989462B2
(6-Amino-2-methyl-quinazolin-4-yl)-(4-dimethylaminophenyl)-methylamine
A mixture of (2-methyl-6-nitroquinazolin-4-yl)-(4-dimethylaminophenyl)-methylamine (214 mg, 0.634 mmol) in 20 mL of ethyl acetate and methanol (1:1) with 5% Palladium on carbon was hydrogenated at 70 psi for 5 h. The reaction mixture was filtered and concentrated. The crude product was purified by chromatography (5% methanol/methylene chloride) to give the title compound (195 mg, 0.634 mmol, 100%). 1H NMR (CDCl3): 7.58 (d, J=8.7, 1H), 7.02 (m, 2H), 6.97 (dd, J=9.0, 2.7, 1H), 6.69 (m, 2H), 6.21 (d, J=2.4, 1H), 3.54 (s, 3H), 3.45 (s, broad, 2H), 2.97 (s, 6H), 2.67 (s, 3H).

reactant | (2-methyl-6-nitroquinazolin-4-yl)-(4-dimethylaminophenyl)-methylamine | 0.634 mmol, 214 mg | CC1=NC2=CC=C(C=C2C(=N1)N(C)C1=CC=C(C=C1)N(C)C)[N+](=O)[O-] | C18H19N5O2
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | methanol | CO | CH4O
catalyst | Palladium on carbon | [Pd] | Pd
product | (6-Amino-2-methyl-quinazolin-4-yl)-(4-dimethylaminophenyl)-methylamine | 0.634 mmol, 195 mg, 100% | NC=1C=C2C(=NC(=NC2=CC1)C)N(C)C1=CC=C(C=C1)N(C)C | C18H21N5
